US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a solution of 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (15 mL, 30 mmol) in toluene (50 mL) was added E/Z-3-[2-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (3.6 g, 6 mmol). The reaction mixture was stirred under argon at 65° C. for 3 h and then heated at 130° C. for 4 h. After cooled to room temperature, the mixture was concentrated. The residue was purified by chromatography to give the title compound as a white solid (Yield: 1 g).

reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 30 mmol, 15 mL | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | Z-3-[2-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 6 mmol, 3.6 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H34Cl2N2O6
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Racemic (2′S,3S,4′R)-4′-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O | C35H36Cl2FN3O5
